US04405357
Under an argon atmosphere a stirred solution of 10.2 grams (0.065 mole) of N-(2-chlorophenylmethyl)hydroxylamine and 6.1 grams (0.077 mole) of pyridine in 80 ml of methylene chloride was cooled to -10°. A solution of 10.0 grams (0.065 mole) of 3-chloro-2,2-dimethylpropionyl chloride in 20 ml of methylene chloride was added dropwise to the hydroxylamine solution during a 20 minute period. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it was stirred for 16 hours. The reaction mixture was diluted with 100 ml of methylene chloride and washed with 100 ml of water, 100 ml of aqueous 10% hydrochloric acid, and finally 100 ml of water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give a residual oil. The oil was taken up in 25 ml of hexane and cooled in an icewater bath. The resultant solid precipitate was collected by filtration and recrystallized from hexaneethyl acetate to give 3.7 grams of 3-chloro-N-(2-chlorophenyl)methyl-N-hydroxy-2,2-dimethylpropanamide; mp 108°-110°.

reactant | N-(2-chlorophenylmethyl)hydroxylamine | 0.065 mole, 10.2 grams | ClC1=C(C=CC=C1)CNO | C7H8ClNO
reactant | pyridine | 0.077 mole, 6.1 grams | N1=CC=CC=C1 | C5H5N
reactant | 3-chloro-2,2-dimethylpropionyl chloride | 0.065 mole, 10.0 grams | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | hydroxylamine | NO | H3NO
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | 25 ml | CCCCCC | C6H14
product | 3-chloro-N-(2-chlorophenyl)methyl-N-hydroxy-2,2-dimethylpropanamide | 3.7 grams | ClCC(C(=O)N(O)CC1=C(C=CC=C1)Cl)(C)C | C12H15Cl2NO2
